US04876249
Preparation of 4,4-Dimethyl-2-(2-methyl-3-tridecyl)-2-oxazoline
A solution of 25.34 g (100 mmoles) of 4,4-dimethyl-2-undecyl-2-oxazoline in 250 ml of dry THF under nitrogen atmosphere was cooled to -78° C. To this was added 62.5 ml (100 mmoles) of 1.6M solution of n-butyl lithium in hexane over a period of 15 minutes and the solution was further stirred for 2 hours. 18.45 g (150 mmoles) of 2-bromopropane was added at -78° C. over a period of 30 minutes and the resulting solution was allowed to warm to room temperature overnight. The solution was poured into 250 ml of saturated ammonium chloride solution and the organic phase was separated. The aqueous phase was extracted with 2×100 ml of ether, the organic phases were combined and extracted with 2×200 ml of brine. After drying over anhydrous magnesium sulphate, the solution was concentrated and the residue was distilled at reduced pressure 10.2 g of starting material was recovered. 8.82 g (50% based on recovered starting material) of product distilled at 131°-134° C./ 0.8 mm Hg. 2.98 g (14.8%) of disubstituted product was obtained as a higher boiling fraction.

reactant | 4,4-dimethyl-2-undecyl-2-oxazoline | 100 mmoles, 25.34 g | CC1(N=C(OC1)CCCCCCCCCCC)C | C16H31NO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-bromopropane | 150 mmoles, 18.45 g | BrC(C)C | C3H7Br
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4,4-Dimethyl-2-(2-methyl-3-tridecyl)-2-oxazoline | 2.98 g, 14.8% | CC1(N=C(OC1)C(C(C)C)CCCCCCCCCC)C | C19H37NO
